US06500835B2
Synthesis of 4-[(6-chloro-2,4(1H,3H)-quinazolinedion-3-yl)sulfonyl]anthranilic acid (Compound 32)
300 mg (0.74 mmol) of 3-benzyloxycarbonylamino-4-t-butoxycarbonylbenzenesulfonamide and 310 mg (0.81 mmol) of benzyl 5-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 17 to obtain 75 mg (yield 26%: 4 steps) of the above-identified compound. Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δ ppm, DMSO-d6): 7.13-7.20 (2H, m), 7.56 (1H, s), 7.72 (1H, d), 7.82 (1H, s), 7.90 (1H, d), 11.68 (1H, s).

reactant | 3-benzyloxycarbonylamino-4-t-butoxycarbonylbenzenesulfonamide | 0.74 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C=CC1C(=O)OC(C)(C)C)S(=O)(=O)N | C19H22N2O6S
reactant | benzyl 5-chloro-2-N-phenoxycarbonylanthranilate | 0.81 mmol, 310 mg | ClC1=CC=C(C(C(=O)OCC2=CC=CC=C2)=C1)NC(=O)OC1=CC=CC=C1 | C21H16ClNO4
product | 4-[(6-chloro-2,4(1H,3H)-quinazolinedion-3-yl)sulfonyl]anthranilic acid | yield 26% | ClC=1C=C2C(N(C(NC2=CC1)=O)S(=O)(=O)C=1C=C(C(C(=O)O)=CC1)N)=O | C15H10ClN3O6S
